US06060488
1-Hexyl-2-Piperidine Methanol
2-Piperidine methanol (2.30 g, 20 mmol) and 1-iodohexane (1.5 mL, 10 mmol) were converted to product by the procedure of Preparation 1 to yield 2.048 g (51%) of the title compound. 3H NMR consistent with desired product.

reactant | 2-Piperidine methanol | 20 mmol, 2.30 g | N1C(CCCC1)CO | C6H13NO
reactant | 1-iodohexane | 10 mmol, 1.5 mL | ICCCCCC | C6H13I
product | 1-Hexyl-2-Piperidine Methanol | 2.048 g, 51% | C(CCCCC)N1C(CCCC1)CO | C12H25NO
